US04537897
4.06 g of dicyclohexylcarbodiimide were added at 0° C. to a solution of 1.52 g of (1R,cis)2,2-dimethyl-3-(1,2-propadienyl)-cyclopropane carboxylic acid in 40 ml of methylene chloride followed by addition of a few crystals of 4-dimethylaminopyridine and stirring at 0° C. for 15 minutes. A solution of 2.07 g of 5-benzyl-3-furyl-methanol in 10 ml of methylene chloride were added at 0° C. to the mixture which was stirred at 20° C. for 4 hours and was then filtered. The filtrate was evaporated to dryness under reduced pressure and the residue was chromatographed over silica gel. Elution with a 1-1 benzene-petroleum ether (b.p.=35° to 70° C.) yielded 2.72 g of 5-benzyl-3-furyl-methyl (1R,cis)2,2-dimethyl-3-(1,2-propadienyl)-cyclopropane-carboxylate.

reactant | dicyclohexylcarbodiimide | 4.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (1R,cis)2,2-dimethyl-3-(1,2-propadienyl)-cyclopropane carboxylic acid | 1.52 g | CC1([C@@H]([C@@H]1C=C=C)C(=O)O)C | C9H12O2
reactant | 5-benzyl-3-furyl-methanol | 2.07 g | C(C1=CC=CC=C1)C1=CC(=CO1)CO | C12H12O2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-benzyl-3-furyl-methyl (1R,cis)2,2-dimethyl-3-(1,2-propadienyl)-cyclopropane-carboxylate | 2.72 g | CC1([C@@H]([C@@H]1C=C=C)C(=O)OCC1=COC(=C1)CC1=CC=CC=C1)C | C21H22O3
